US04014677
200 ml of alcohol and 4.5 g (44 m-moles) of triethylamine are added to 11 g (44 m-moles) of 2-n-butyl-4,6-dichloro-5-nitro-pyrimidine. At -50° C, 4.0 g (44 m-moles of 3-aminopentane are added dropwise. The reaction mixture is stirred for 3 hours and then evaporated. The residue is suspended in 100 ml of water and extraction is performed with ether. The ethereal extracts are dried over MgSO4 and evaporated to yield 10.5 g of 2-n-butyl-4-chloro-5-nitro-6-(3-pentylamino)-pyrimidine (nD20 : 1.5383) as a yellow oil

reactant | 2-n-butyl-4,6-dichloro-5-nitro-pyrimidine | 11 g | C(CCC)C1=NC(=C(C(=N1)Cl)[N+](=O)[O-])Cl | C8H9Cl2N3O2
reactant | 3-aminopentane | NC(CC)CC | C5H13N
solvent | triethylamine | 4.5 g | C(C)N(CC)CC | C6H15N
product | 2-n-butyl-4-chloro-5-nitro-6-(3-pentylamino)-pyrimidine | 10.5 g | C(CCC)C1=NC(=C(C(=N1)Cl)[N+](=O)[O-])NC(CC)CC | C13H21ClN4O2
